US06291469B1
Step A Preparation of 1,3,8-triaza-spiro[4.5]decan-2,4-dione
To a solution of 14.6 g (48.1 mmol) benzyl 2,4-dioxo-1,3,8-triaza-spiro[4.5]decan-8-carboxylate (prepared from N-(benzyloxycarbonyl)piperidone by the method from J. Med. Chem. 1995, 38, 3772) in 250 ml dry ethanol were added 500 mg 10% Pd/C, and the mixture was filled into an autoclave. After stirring at 60° C. and 10 atm of hydrogen for 3 h no starting hydantoin could be detected by TLC. A precipitate had been formed which was redissolved by addition of 100 ml acetic acid. The catalyst was removed by filtration and the solution was concentrated in vacuo. Aqueous sodium bicarbonate solution was added until the mixture became a clear solution, and the title compound precipitated in two crops upon concentration in vacuo.

reactant | benzyl 2,4-dioxo-1,3,8-triaza-spiro[4.5]decan-8-carboxylate | 48.1 mmol, 14.6 g | O=C1NC2(C(N1)=O)CCN(CC2)C(=O)OCC2=CC=CC=C2 | C15H17N3O4
reactant | N-(benzyloxycarbonyl)piperidone | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)=O | C13H15NO3
reactant | hydrogen | [H][H] | H2
reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,3,8-triaza-spiro[4.5]decan-2,4-dione | N1C(NC(C12CCNCC2)=O)=O | C7H11N3O2
